US07601850B2
Preparation of 5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-sulfonic acid propionyl-amide
Using procedures analogous to Example 158B and Example 158C, 5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonic acid amide and propionic acid give the title compound (66%).

reactant | 5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonic acid amide | C(C)(C)(C)[Si](OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)S(=O)(=O)N)C)C)C(C)(C)C)(C)C | C29H49NO4S2Si
reactant | propionic acid | C(CC)(=O)O | C3H6O2
product | 5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-sulfonic acid propionyl-amide | 66% | C(CC)(=O)NS(=O)(=O)C=1SC(=CC1C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)CC | C26H39NO5S2
